US07456177B2
Preparation of 3-Benzyl-3-aza-bicyclo[3.2.1]octan-6-ol
To a solution of acetic acid 3-benzyl-3-aza-bicyclo[3.2.1]oct-6-yl ester (8 mmol) in methanol (50 mL) and water (20 mL) was added potassium hydroxide (32 mmol). Reaction was stirred 18 h at room temperature. The methanol was removed in vacuo and product was extracted with aqueous dichloromethane (4×50 mL). The organic extracts were dried over MgSO4, filtered and stripped to provide a quantitative yield of an oil. APCl MS m/z 218.2 (M+H)+.

reactant | acetic acid 3-benzyl-3-aza-bicyclo[3.2.1]oct-6-yl ester | 8 mmol | C(C1=CC=CC=C1)N1CC2CC(C(C1)C2)OC(C)=O | C16H21NO2
reactant | potassium hydroxide | 32 mmol | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 3-Benzyl-3-aza-bicyclo[3.2.1]octan-6-ol | quantitative yield | C(C1=CC=CC=C1)N1CC2CC(C(C1)C2)O | C14H19NO
